US07049333B2
4-Methyl-3-thienyl isothiocyanate is obtained by reacting equimolar amounts of 3-amino-4-methylthiophene and N,N′-thiocarbonyldiimidazole in anhydrous tetrahydrofuran (THF) by stirring the reaction mixture at room temperature for 5 hours and then allowing the mixture to stand at room temperature overnight. 4-Methyl-3-thienyl isothiocyanate is isolated by distillative removal of the solvent under reduced pressure using a rotary evaporator, dissolving the residue in ethyl acetate and washing the organic phase repeatedly with water. The organic phase is dried over sodium sulfate and the organic solvent is then distilled off under reduced pressure using a rotary evaporator, giving 4-methyl-3-thienyl isothiocyanate as a brown oily residue. 4-Methyl-3-thienyl isothiocyanate can be used without further purification. b) N-(2-Amino-5-fluorophenyl)-N′-(4-methyl-3-thienyl)thiourea

reactant | 3-amino-4-methylthiophene | NC1=CSC=C1C | C5H7NS
reactant | N,N′-thiocarbonyldiimidazole | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
